US05716963
A solution of naphthoquinone (553 mg, 3.5 mmol) and 2-fluoro-2-butenal N,N-dimethylhydrazone was refluxed for 8 days in chloroform (15 ml.) After the solvent was evaporated at reduced pressure, the residue was chromatographed over silica gel column, eluting with petroleum ether-ethyl acetate (9:1) and yielded 63 mg (10%) of compound (I-k) and 90 mg (15%) of 3-fluoro-4-methyl-1-azaanthracen-9-10-dione. m.p. 190°-192° C. (CDCl3).

reactant | naphthoquinone | 3.5 mmol, 553 mg | C=1C=CC2=C(C1)C(=O)C=CC2=O | C10H6O2
reactant | 2-fluoro-2-butenal N,N-dimethylhydrazone | CN(N=CC(=CC)F)C | C6H11FN2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-fluoro-4-methyl-1-azaanthracen-9-10-dione | 90 mg, 15% | FC=1C=NC=2C(C3=CC=CC=C3C(C2C1C)=O)=O | C14H8FNO2
